US06194406B1
1-(α-Methylbenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
According to the method of J. Am. Chem. Soc., 93, 2897 (1971), combine acetophenone (10 mmol) and 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (10 mmol) in methanol (100 mL). Add bromocreosol green (0.5% by weight in methanol, 1 drop). Add dropwise, a solution of sodium cyanoborohydride (10 mL, 1M in tetrahydrofuran, 10 mmol) and at the same time maintain the pH of the reaction mixture, as indicated by a yellow color for the indicator, by the addition of a 5 M solution of hydrochloric acid in methanol. When the reaction is complete, concentrate the reaction mixture in vacuo to obtain a residue. Dilute the residue with ethyl acetate and extract with water. Separate the layers, dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | acetophenone | 10 mmol | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | 3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine hydrochloric acid salt | 10 mmol | Cl.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CCC2)CCC2(CNCC2)C2=CC=CC=C2
reactant | sodium cyanoborohydride | 10 mmol, 1M, 10 mL | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
catalyst | bromocreosol | 1 drop | BrCOC=1C(=CC=C(C1)C)O | C8H9BrO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(α-Methylbenzyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | CC(C1=CC=CC=C1)N1CC(CC1)(C1=CC=CC=C1)CCN1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2 | C36H47N5O
